US08470820B2
Step 1: 5-Bromo-pyridin-2-yl-methanol
To a solution of 5-bromopyridin-2-carboxylic acid (8 g, 42.1 mmol) in THF (100 ml) was added borane-dimethylsulphide (16 ml, 168.30 mmol) dropwise at 0° C. After warming-up to ambient temperature stirring was continued for 24 hours. The solution was cooled again to 0° C., quenched with MeOH and refluxed for 1 h. Solvents were removed and the residue was treated with water. The aqueous phase was extracted with ethyl acetate and the combined organic layers were washed with water and brine, dried, filtered and concentrated under reduced pressure to afford 4.76 g (64%) of the title compound.

reactant | 5-bromopyridin-2-carboxylic acid | 42.1 mmol, 8 g | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | borane dimethylsulphide | 168.30 mmol, 16 ml | B.CSC
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-Bromo-pyridin-2-yl-methanol | 4.76 g, 64% | BrC=1C=CC(=NC1)CO | C6H6BrNO
